US06762321B2
4.02 g (55.0 mmol) of butylamine was added dropwise to a mixture of 12.1 g (50.0 mmol) of 4-benzyloxy-3-methoxybenzaldehyde, 5.63 g (75.0 mmol) of nitroethane and 120 ml of acetic acid and refluxed for 5 hours by heating. The reaction mixture was cooled and extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=4:1) to give 2.70 g of 1-benzyloxy-2-methoxy-4-(2-nitropropenyl)benzene.

reactant | butylamine | 55.0 mmol, 4.02 g | C(CCC)N | C4H11N
reactant | 4-benzyloxy-3-methoxybenzaldehyde | 50.0 mmol, 12.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | nitroethane | 75.0 mmol, 5.63 g | [N+](=O)([O-])CC | C2H5NO2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1-benzyloxy-2-methoxy-4-(2-nitropropenyl)benzene | 2.70 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=C(C)[N+](=O)[O-])OC | C17H17NO4
